US07417060B2
To a solution of methyl 4′-[2-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-isopropoxy-4biphenylcarboxylate (1.40 g) in methanol (15 ml)/tetrahydrofuran (6 ml) was added aqueous solution of sodium hydroxide (1N, 7.89 ml) at room temperature and the mixture was stirred at room temperature for 18 hours. The mixture solution was acidified with aqueous hydrochloric acid solution (1N), poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=5/5) to give 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-phenylethyl]amino]-ethyl]-3-isopropoxy-4-biphenylcarboxylic acid (1.40 g).

reactant | methyl 4′-[2-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-isopropoxy-4biphenylcarboxylate | 1.40 g | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)OC(C)C)C[C@@H](C1=CC=CC=C1)O | C32H39NO6
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 7.89 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | water | O | H2O
product | 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-phenylethyl]amino]-ethyl]-3-isopropoxy-4-biphenylcarboxylic acid | 1.40 g | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)O)OC(C)C)C[C@@H](C1=CC=CC=C1)O | C31H37NO6
